US07811595B2
Preparation of [(3-hydroxy-pyridine-2-carbonyl)-methyl-amino]-acetic acid (33):
To a solution of [(3-hydroxy-pyridine-2-carbonyl)methylamino]acetic acid ethyl ester, 32, (0.10 g, 0.42 mmol) in THF (4 mL) is added H2O (1 mL) and NaOH (0.90 g, 2.25 mmol). The reaction is stirred for 3 hours then concentrated under reduced pressure. The remaining oil is acidified to pH ˜1 with 1M HCl and the solution is concentrated under reduced pressure to give an off-white solid. The solid is suspended in CHCl3:isopropanol (1:1) then collected by filtration. The solid is washed with additional CHCl3:isopropanol (1:1) then transferred to a flask and triturated with Et2O to afford 0.075 g (85% yield) of the desired compound as a pale yellow solid. 1H NMR (250 MHz, MeOD) δ ppm (rotamers) 8.26 (1H, br s), 7.63-7.74 (1H, m), 7.56-7.63 (1H, m), 4.38 (1H, s), 4.32 (1H, s), 3.20 (1.5H, s), 3.12 (1.5H, s). HPLC-MS: m/z 211 [M+H]+.

reactant | [(3-hydroxy-pyridine-2-carbonyl)methylamino]acetic acid ethyl ester | C(C)OC(CNCC(=O)C1=NC=CC=C1O)=O | C11H14N2O4
reactant | H2O | 1 mL | O | H2O
reactant | NaOH | 2.25 mmol, 0.90 g | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | CHCl3 isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
product | [(3-hydroxy-pyridine-2-carbonyl)-methyl-amino]-acetic acid | 0.075 g, 85% yield | OC=1C(=NC=CC1)C(=O)N(C)CC(=O)O | C9H10N2O4
